** sch_path: /home/vijaykumar/internship/SRAM_SKY130/task2/schematics/sram_6t_cell.sch
**.subckt sram_6t_cell
XM1 Q Qbar 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2 Q Qbar Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 Qbar Q 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM4 Qbar Q Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM5 BL WL Q 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 BLbar WL Qbar 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
V1 WL 0 0
V2 Vdd 0 1.8
**** begin user architecture code

.lib /home/vijaykumar/pdk/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


.control
tran 0.1n 20n uic
plot v(Q) v(Qbar)
.endc


.ic V(Q)=1.8 V(Qbar)=0

**** end user architecture code
**.ends
.end