** sch_path: /home/vijaykumar/internship/SRAM_SKY130/task2/schematics/inverter.sch
**.subckt inverter in vdd out vss
*.ipin in
*.iopin vdd
*.opin out
*.iopin vss
XM1 out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.18 W=3 nf=3 ad=0.58 as=0.58 pd=5.16 ps=5.16 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
XM2 out in vss vss sky130_fd_pr__nfet_01v8 L=0.18 W=4.5 nf=3 ad=0.87 as=0.87 pd=7.16 ps=7.16 nrd=0.0644444444444444
+ nrs=0.0644444444444444 sa=0 sb=0 sd=0 mult=1
**.ends
.end